US08420647B2
4-(2,5-Dichloro-phenoxy)-N-(4,5-difluoro-2-methylamino-phenyl)-N-methyl-nicotinamide
A solution of 100 mg (0.186 mmol) (2-{[4-(2,5-dichloro-phenoxy)-pyridine-3-carbonyl]-methyl-amino}-4,5-difluoro-phenyl)-methyl-carbamic acid tert-butyl ester in 1.5 mL 1M aqueous hydrochloric acid was stirred for 4 hours at 90° C. The reaction mixture was cooled down to room temperature and 2 mL 1M aqueous sodium hydroxide solution and 1 mL acetonitrile were added. The light yellow solution was directly purified by preparative HPLC (Phenomenex Gemini column) with a gradient of acetonitrile:water (containing 0.05% formic acid) (10:90 to 98:2) to give 18 mg (22%) of the title compound as a colorless solid. MS (ESI): m/z=438.058 [M+H]+.

reactant | (2-{[4-(2,5-dichloro-phenoxy)-pyridine-3-carbonyl]-methyl-amino}-4,5-difluoro-phenyl)-methyl-carbamic acid tert-butyl ester | 0.186 mmol, 100 mg | C(C)(C)(C)OC(N(C)C1=C(C=C(C(=C1)F)F)N(C)C(=O)C=1C=NC=CC1OC1=C(C=CC(=C1)Cl)Cl)=O | C25H23Cl2F2N3O4
reactant | sodium hydroxide | 1M, 2 mL | [OH-].[Na+]
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | 1M, 1.5 mL | Cl | ClH
product | 4-(2,5-Dichloro-phenoxy)-N-(4,5-difluoro-2-methylamino-phenyl)-N-methyl-nicotinamide | 18 mg, 22% | ClC1=C(OC2=CC=NC=C2C(=O)N(C)C2=C(C=C(C(=C2)F)F)NC)C=C(C=C1)Cl | C20H15Cl2F2N3O2
